US06677337B2
Preparation of 4-[4-(4-fluorophenyl)-2-methyl-5-(2-phenoxy-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester (13):
To a solution of phenol (0.11 g, 1.16 mmol) in THF (5 mL) is added NaH (0.024 g of a 60% dispersion in mineral oil, 0.58 mmol). After stirring for 5 min at room temp, a solution of 4-[4-(4-fluorophenyl)-2-methyl-5-(2-methanesulfonyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester, 12, (0.154 g, 0.29 mmol) in THF (3 mL) is added all at once. The reaction mixture is stirred at room temp for 14 hours and then quenched by pouring into aqueous saturated NaHCO3 solution. The aqueous phase is extracted three times with CH2Cl2, the combined organic phases washed with saturated sodium bicarbonate, dried (MgSO4), filtered and concentrated in vacuo. The crude residue was used without further purification in the next step.

reactant | phenol | 1.16 mmol, 0.11 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | [H-].[Na+]
reactant | 4-[4-(4-fluorophenyl)-2-methyl-5-(2-methanesulfonyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N(C(C(=C1C1=NC(=NC=C1)S(=O)(=O)C)C1=CC=C(C=C1)F)=O)C | C25H30FN5O5S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-[4-(4-fluorophenyl)-2-methyl-5-(2-phenoxy-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N(C(C(=C1C1=NC(=NC=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)F)=O)C | C30H32FN5O4
